US07678820B2
To a solution of 4-chloro-3-(trifluoromethyl)benzonitrile (1 g) and iron(3+) tris[(2Z)-4-oxopent-2-ene-2-oleate] (86 mg), and 1-methylpyrrolidin-2-one (2.8 ml) in THF (30 ml) was added a solution of 2M bromo(isobutyl)magnesium in diethyl ether (2.9 ml) under ice-cooling. The solution was stirred at room temperature for 30 minutes, and diluted with diethyl ether (30 ml), and then 1M HCl was carefully added thereto to complete the reaction. The reaction solution was extracted with EtOAc (100 ml), and the organic layer was dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:EtOAc=100:0 to 95:5) to obtain 4-isobutyl-3-(trifluoromethyl)benzonitrile (320 mg) as a pale yellow liquid.

reactant | 4-chloro-3-(trifluoromethyl)benzonitrile | 1 g | ClC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3ClF3N
reactant | 1-methylpyrrolidin-2-one | 2.8 ml | CN1C(CCC1)=O | C5H9NO
reactant | bromo(isobutyl)magnesium | 2M | Br[Mg]CC(C)C
reactant | HCl | 1M | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 2.9 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | iron(3+) | [Fe+3]
product | 4-isobutyl-3-(trifluoromethyl)benzonitrile | 320 mg | C(C(C)C)C1=C(C=C(C#N)C=C1)C(F)(F)F | C12H12F3N
